US20010027196A1
6-Amino-4-(4-amino-benzylamino)-2-furan-2-yl-nicotinonitrile
From trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester and 4-aminobenzylamine in DME. ES-MS m/e (%): 306 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester | NC1=CC(=C(C(=N1)C=1OC=CC1)C#N)OS(=O)(=O)C(F)(F)F | C11H6F3N3O4S
reactant | 4-aminobenzylamine | NC1=CC=C(CN)C=C1 | C7H10N2
solvent | DME | COCCOC | C4H10O2
product | 6-Amino-4-(4-amino-benzylamino)-2-furan-2-yl-nicotinonitrile | NC1=NC(=C(C#N)C(=C1)NCC1=CC=C(C=C1)N)C=1OC=CC1 | C17H15N5O
